US04803200
β-[(2-Ethoxyethyl)amino]-α-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (1.96 g, 0.010 mole) and 2-ethoxyethylamine (2.67 g, 0.030 mole) was heated at 140° C. for 6 hours. After standing at ambient temperature for 10 hours, the solidified reaction mixture was triturated with isooctane and filtered to give 2.28 g of white solid (80%) which was recrystallized from isooctane, m.p. 128°-130° C.

reactant | trans-stilbene oxide | 0.010 mole, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 2-ethoxyethylamine | 0.030 mole, 2.67 g | C(C)OCCN | C4H11NO
product | β-[(2-Ethoxyethyl)amino]-α-phenylbenzeneethanol | 2.28 g, 80% | C(C)OCCNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C18H23NO2
